US06951879B2
14.27 ml (115.0 mmol) 3-mercaptoanisole were added to a solution of 7.3 g (115.0 mmol) KOH in 120 ml ethanol and 50 ml water. 25.0 g (115.2 mmol) 4-fluorophenacyl bromide in 120 ml EtOAc were added slowly at 0° C. and the solution was stirred at RT over night. The suspension was concentrated and dissolved in EtOAc and water. The inorganic phase was extracted with EtOAc, the combined organic phases were washed with water and brine and dried over Na2SO4. Evaporation yielded 33.2 g crude 1-(4-Fluoro-phenyl)-2-(3-methoxy-phenylsulfanyl)-ethanone as light yellow liquid.

reactant | 3-mercaptoanisole | 115.0 mmol, 14.27 ml | SC=1C=C(C=CC1)OC | C7H8OS
reactant | KOH | 115.0 mmol, 7.3 g | [OH-].[K+]
reactant | 4-fluorophenacyl bromide | 115.2 mmol, 25.0 g | FC1=CC=C(C(CBr)=O)C=C1 | C8H6BrFO
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 120 ml | CCOC(=O)C | C4H8O2
product | 1-(4-Fluoro-phenyl)-2-(3-methoxy-phenylsulfanyl)-ethanone | 33.2 g | FC1=CC=C(C=C1)C(CSC1=CC(=CC=C1)OC)=O | C15H13FO2S
